US07781463B2
N-(p-Methoxyphenethyl)maleimide (Compound 8-D)
Reagents: Ph3P (1.31 g, 5 mmol), DEAD (0.8 ml, 5 mmol), p-methoxyphenethyl alcohol (1.2 g, 7.5 mmol) and maleimide (0.48 g, 5 mmol).

reactant | Ph3P | 5 mmol, 1.31 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DEAD | 5 mmol, 0.8 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | p-methoxyphenethyl alcohol | 7.5 mmol, 1.2 g | COC1=CC=C(CCO)C=C1 | C9H12O2
reactant | maleimide | 5 mmol, 0.48 g | C1(C=CC(N1)=O)=O | C4H3NO2
product | N-(p-Methoxyphenethyl)maleimide | COC1=CC=C(CCN2C(C=CC2=O)=O)C=C1 | C13H13NO3
